US09428509B2
N-(5-Chloro-1-(2-methoxyethyl)-1H-pyrazol-4-yl)-4-(cyclopentyloxy)-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine
To a degassed mixture of 6-(2-chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), 5-chloro-1-(2-methoxyethyl)-1H-pyrazol-4-amine (1.5 equiv) and cesium carbonate (3 equiv) in 1,4-dioxane (0.06 M) was added palladium acetate (0.1 equiv) and 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl (0.2 equiv). The reaction was stirred at 100° C. for 2 h. Upon completion, the reaction mixture was cooled to room temperature, and concentrated. The residue was purified by silica gel chromatography (1-2% MeOH in DCM) to afford the desired product (60% yield, crude) as a yellow solid which was used in next step without further purification. MS (ESI) m/z 638.2 [M+H]+.

reactant | 6-(2-chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCCC2 | C25H31ClN4O3Si
reactant | 5-chloro-1-(2-methoxyethyl)-1H-pyrazol-4-amine | 1.5 equiv | ClC1=C(C=NN1CCOC)N | C6H10ClN3O
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl | 0.2 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | 1,4-dioxane | 0.06 M | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(5-Chloro-1-(2-methoxyethyl)-1H-pyrazol-4-yl)-4-(cyclopentyloxy)-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 60% yield | ClC1=C(C=NN1CCOC)NC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCCC2 | C31H40ClN7O4Si
